US04729847
Methyl p-hydroxybenzoate ester (177.0 g, 1.16 mol) was dissolved in methanol (800 ml), followed by adding KOH (65.0 g, 1.16 mol), adding after completion of heat generation, optically active p-toluenesulfonic acid 1-methyl-heptyl ester (300.0 g, 1.06 mol) prepared in advance, refluxing the mixture for about 4 hours, allowing it to stand at room temperature, thereafter adding water (1 l) and toluene (500 ml), agitating the mixture, washing the separated toluene layer sufficiently with 2N-NaOH aqueous solution and further with water until the wash water became neutral, distilling off toluene, dissolving the residue in ethanol (50 ml), adding a solution of NaOH (30.0 g) dissolved in water (150 ml), refluxing the mixture for about one hour, thereafter acidifying the reaction product with hydrochloric acid, filtering deposited crystals and recrystallizing from heptane to obtain optically active p-(1-methyl-heptyloxy)benzoic acid (96.2 g).

reactant | KOH | 1.16 mol, 65.0 g | [OH-].[K+]
reactant | p-toluenesulfonic acid 1-methyl-heptyl ester | 1.06 mol, 300.0 g | CC(CCCCCC)OS(=O)(=O)C1=CC=C(C=C1)C | C15H24O3S
reactant | water | 1 l | O | H2O
reactant | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 800 ml | CO | CH4O
product | p-(1-methyl-heptyloxy)benzoic acid | 96.2 g | CC(CCCCCC)OC1=CC=C(C(=O)O)C=C1 | C15H22O3
